US05861401
Sodium hydride (60% dispersion in oil; 0.198 g) was suspended in dimethoxyethane (5 ml) and 2-amino-5-bromo-3-methoxypyrazine (0.405 g) was added with stirring. After 15 minutes, 2-biphenylsulphonyl chloride (0.5 g) was added and the mixture was stirred for 18 hours. The reaction mixture was poured into water (20 ml) and acidified to pH2 with concentrated hydrochloric acid and extracted with ethyl acetate (3×25 ml). The combined organic extracts were evaporated and the residue was purified by flash chromatography on silica gel (30 g), eluting with hexane/ethyl acetate/glacial acetic acid (160/40/1 v/v), to give N-(5-bromo-3-methoxy-2-pyrazinyl)-2-biphenylsulphonamide (0.46 g); 1H NMR (d6 -DMSO): 3.82(s,3H), 7.2-7.4(m,6H), 7.53-7.7(m,2H), 7.78(s,1H), 8.08(dd,1H), 10.33(br,1H); mass spectrum (+ve FAB, methanol/NBA): 420(M+H)+.

reactant | Sodium hydride | 0.198 g | [H-].[Na+]
reactant | 2-amino-5-bromo-3-methoxypyrazine | 0.405 g | NC1=NC=C(N=C1OC)Br | C5H6BrN3O
reactant | 2-biphenylsulphonyl chloride | 0.5 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | water | 20 ml | O | H2O
product | N-(5-bromo-3-methoxy-2-pyrazinyl)-2-biphenylsulphonamide | 0.46 g | BrC=1N=C(C(=NC1)NS(=O)(=O)C=1C(=CC=CC1)C1=CC=CC=C1)OC | C17H14BrN3O3S
